US04439514
N-(2-Propynyl)-4-nitro-2-trifluoromethylaniline
To a suspension of potassium carbonate (20.0 g) in DMSO (7 ml) was added triethylamine (3 ml) and 2-propyn-1-amine(7.92 g, 1.44×10-1 mole). The reaction mixture was cooled in an ice bath while 1-fluoro-4-nitro-2-trifluoromethylbenzene (30.13 g, 1.44×10-1 mole) was added gradually with stirring. The mixture was gradually allowed to warm to room temperature and stirred for 24 hours. The reaction mixture was poured into excess water and extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate, filtered and evaporated. The residue was chromatographed on a silica column, eluting with benzene, and recrystallized from benzene to afford yellow crystals; m.p. 71°-72° C. Yield: 24.24 g (69%). I.R. (KBr): 3450 (NH), 3290 (CH), 1588 (Ar-NO2) and 1300 cm-1 (CF3).

reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyn-1-amine | 1.44×10-1 mole, 7.92 g | C(C#C)N | C3H5N
reactant | 1-fluoro-4-nitro-2-trifluoromethylbenzene | 1.44×10-1 mole, 30.13 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | KBr | [K+].[Br-]
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Propynyl)-4-nitro-2-trifluoromethylaniline | C(C#C)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C10H7F3N2O2
